.subckt 4OR node_a node_b node_c node_d node_out vdd gnd
    X1 node_a node_b ab vdd gnd OR
    X2 ab node_c abc vdd gnd OR
    X3 abc node_d node_out vdd gnd OR
.ends 4OR
