.subckt 4SUB a3 a2 a1 a0 b3 b2 b1 b0 m s3 s2 s1 s0 cout vdd gnd

        X1 b3 bn3 vdd gnd NOT
        X2 b2 bn2 vdd gnd NOT
        X3 b1 bn1 vdd gnd NOT
        X4 b0 bn0 vdd gnd NOT

        X5 a0 bn0 m s0 c0 vdd gnd FullAdder
        X6 a1 bn1 c0 s1 c1 vdd gnd FullAdder
        X7 a2 bn2 c1 s2 c2 vdd gnd FullAdder
        X8 a3 bn3 c2 s3 cout vdd gnd FullAdder

.ends 4SUB
