.subckt ANDING a3 a2 a1 a0 b3 b2 b1 b0 s3 s2 s1 s0 vdd gnd
    X1 a0 b0 s0 vdd gnd AND 
    X2 a1 b1 s1 vdd gnd AND
    X3 a2 b2 s2 vdd gnd AND
    X4 a3 b3 s3 vdd gnd AND
.ends ANDING