.subckt ADDER a3 a2 a1 a0 b3 b2 b1 b0 c s3 s2 s1 s0 cout vdd gnd
    X1 a0 b0 c s0 c0 vdd gnd FullAdder 
    X2 a1 b1 c0 s1 c1 vdd gnd FullAdder
    X3 a2 b2 c1 s2 c2 vdd gnd FullAdder
    X4 a3 b3 c2 s3 cout vdd gnd FullAdder
.ends ADDER