.subckt ENABLE a3 a2 a1 a0 b3 b2 b1 b0 e c3 c2 c1 c0 d3 d2 d1 d0 vdd gnd
    
    X1 a0 e c0 vdd gnd AND
    X2 a1 e c1 vdd gnd AND
    X3 a2 e c2 vdd gnd AND
    X4 a3 e c3 vdd gnd AND

    X5 b0 e d0 vdd gnd AND
    X6 b1 e d1 vdd gnd AND
    X7 b2 e d2 vdd gnd AND
    X8 b3 e d3 vdd gnd AND
    
.ends ENABLE