.subckt FullAdder a b c s cout vdd gnd
    X1 a b h1 vdd gnd XOR
    X2 h1 c s vdd gnd XOR

    X3 c h1 h3 vdd gnd AND
    X4 a b h2  vdd gnd AND

    X5 h2 h3 cout vdd gnd OR

.ends FullAdder