.subckt OR node_a node_b node_out vdd gnd
    X1 node_a node_a node_out1 vdd gnd NAND
    X2 node_b node_b node_out2 vdd gnd NAND
    X3 node_out1 node_out2 node_out vdd gnd NAND
.ends OR
