.subckt XNOR node_a node_b node_out vdd gnd
    X1 node_a node_b node_c vdd gnd NAND
    X2 node_a node_c node_d vdd gnd NAND
    X3 node_b node_c node_e vdd gnd NAND
    X4 node_d node_e node_out1 vdd gnd NAND
    X5 node_out1 node_out1 node_out vdd gnd NAND
.ends XNOR
